US09402841B2
Step A: (S)-tert-butyl 3-((7-chloro-3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a solution of 1,7-dichloroisoquinoline-3-carbonitrile (500 mg, 2.24 mmol) in NMP (5 mL) was added (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate (460 mg, 2.46 mmol) and Et3N (453 mg, 4.48 mmol). The solution was heated to 160° C. for 30 minutes in a microwave reactor. The reaction was quenched with H2O (20 mL) and extracted with EtOAc (3×10 mL). The organic layers were combined and concentrated in vacuo. The crude product was purified by column chromatography eluting with ethyl acetate and petroleum ether (EtOAc/PE=1:10 to 1:5 gradient) to give the title compound (660 mg, 79%). ESI-MS m/z [M+H-tert-butyl]+ 317.

reactant | 1,7-dichloroisoquinoline-3-carbonitrile | 2.24 mmol, 500 mg | ClC1=NC(=CC2=CC=C(C=C12)Cl)C#N | C10H4Cl2N2
reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 2.46 mmol, 460 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Et3N | 4.48 mmol, 453 mg | CCN(CC)CC | C6H15N
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-((7-chloro-3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 660 mg, 79% | ClC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C#N | C19H21ClN4O2
